US07842817B2
N-[1-(3,4-Difluorobenzyl)benzimidazol-2-yl]-4-trifluoromethylaniline
The title compound was prepared by Procedure B in two steps from 2-chloro-benzimidazole, 3,4-difluorobenzyl bromide and 4-trifluoromethylaniline. The product was isolated by preparative LCMS and recrystallization (EtOAc/Et2O) to give the title compound as the free base (off-white solid, mp 167-170° C.). MS(ES+) m/z 404 ([M+1]+, 100). 1NMR (DMSO-d6) δ 5.55 (s, 2H), 6.90-6.97 (m, 1H), 7.02-7.13 (m, 2H), 7.25-7.50 (m, 4H), 7.65-7.71 (m, 2H), 8.04-8.12 (m, 2H), 9.55 (s, 1H).

reactant | 2-chloro-benzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 3,4-difluorobenzyl bromide | FC=1C=C(CBr)C=CC1F | C7H5BrF2
reactant | 4-trifluoromethylaniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
solvent | EtOAc Et2O | CCOC(=O)C.CCOCC
product | N-[1-(3,4-Difluorobenzyl)benzimidazol-2-yl]-4-trifluoromethylaniline | FC=1C=C(CN2C(=NC3=C2C=CC=C3)NC3=CC=C(C=C3)C(F)(F)F)C=CC1F | C21H14F5N3
